US06465472B1
1-Isopropyl-6,7-methylenedioxy-4-(2-chloro-4,5-methylenedioxyphenyl)-3,4-dihydro-quinazolin-2(1H)-one
This compound was synthesized from N-isopropyl-N-[3,4-(methylenedioxy)-phenyl]urea (410 mg) and 6-chloropiperonal (350 mg) by the procedure described in example 10 in 65% yield. 1H NMR (CDCl3): 6.86 (s, 1H), 6.77 (s, 1H), 6.48 (s, 1H), 6.40 (s, 1H), 5.95 (s, 4H), 5.66 (d, J=2.5, 1H), 5.21 (s, 1H), 4.48 (m, 1H), 1.53 (d, J=6.5, 6H).

reactant | N-isopropyl-N-[3,4-(methylenedioxy)-phenyl]urea | 410 mg | C(C)(C)N(C(=O)N)C1=CC2=C(C=C1)OCO2 | C11H14N2O3
reactant | 6-chloropiperonal | 350 mg | C1OC2=C(O1)C=C(C(=C2)C=O)Cl | C8H5ClO3
product | 1-Isopropyl-6,7-methylenedioxy-4-(2-chloro-4,5-methylenedioxyphenyl)-3,4-dihydro-quinazolin-2(1H)-one | 65% yield | C(C)(C)N1C(NC(C2=CC3=C(C=C12)OCO3)C3=C(C=C1C(=C3)OCO1)Cl)=O | C19H17ClN2O5
